US08426420B2
ii) 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-4,4-difluoro-2-methoxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 1.2 g 4-{(S)-4-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 35 ml DMF were added 278 mg HOAt, 1.6 g EDC, 1.1 ml DIPEA and 684 mg (S)-4,4-Difluoro-pyrrolidine-2-carboxylic acid methyl ester hydrotrifluoroacetate. After 36 h the mixture was diluted with ethyl acetate and subsequently extracted with aqueous LiCl (4% w/w), 0.1 M HCl and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was purified by chromatography on silica using heptan/ethyl acetate 40/60 to 33/67 as eluent.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1)=O | C28H37N5O9
reactant | HOAt | 278 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 1.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4,4-Difluoro-pyrrolidine-2-carboxylic acid methyl ester | 684 mg | COC(=O)[C@H]1NCC(C1)(F)F | C6H9F2NO2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 1.6 g
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-4,4-difluoro-2-methoxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)OC)C1=CC=CC=C1)=O | C34H44F2N6O10
